US09416132B2
A solution of 6-chloro-3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazine (0.3 g, 0.96 mmol) and cyclohexanediol (0.11 g, 0.96 mmol) in toluene 5 mL was added potassium tertiary butoxide (0.165 g, 1.72 mmol), rac-BINAP (36 mg, 0.057 mmol) and Pd2(dba)3 (26 mg, 0.029 mmol) and the mixture was heated at 120° C. for 4 h under microwave irridation. The resulting dark brown solution was cooled down and was concentrated under reduced pressure. The solid was further purified by using combiflash chromatography (12 g column), eluent: 0-10% methanol/DCM and obtained product 4-((3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazin-6-yl)oxy)cyclohexanol (50 mg, 0.127 mmol, 13% yield).

reactant | 6-chloro-3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazine | 0.96 mmol, 0.3 g | ClC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)OC(F)(F)F | C13H7ClF3N3O
reactant | cyclohexanediol | 0.96 mmol, 0.11 g | C1(CCCCC1)(O)O | C6H12O2
reactant | potassium tertiary butoxide | 1.72 mmol, 0.165 g | CC(C)([O-])C.[K+]
reactant | rac-BINAP | 0.057 mmol, 36 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.029 mmol, 26 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | methanol DCM | CO.C(Cl)Cl
product | 4-((3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazin-6-yl)oxy)cyclohexanol | 0.127 mmol, 50 mg, 13% yield | FC(OC=1C=C(C=CC1)C1=CN=C2N1N=C(C=C2)OC2CCC(CC2)O)(F)F | C19H18F3N3O3
